US07223769B2
In 1.5 ml of tetrahydrofuran was suspended 0.04 g of sodium hydride (60% in oil), to which 0.3 ml of a solution containing 0.05 g of 2-butyn-1-ol in tetrahydrofuran was added dropwise at room temperature, followed by stirring for 10 minutes. To this was added dropwise 0.3 ml of a solution containing 0.16 g of 4-chloro-6-(2,2-dimethoxy-1-methylethoxy)pyrimidine in tetrahydrofuran at 0° C., followed by stirring at the same temperature for 1 hour and further stirring at room temperature for 3 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.11 g of 4-(2-butynyloxy)-6-(2,2-dimethoxy-1-methylethoxy)pyrimidine (the present compound (18)).

reactant | sodium hydride | 0.04 g | [H-].[Na+]
reactant | 2-butyn-1-ol | 0.05 g | C(C#CC)O | C4H6O
reactant | 4-chloro-6-(2,2-dimethoxy-1-methylethoxy)pyrimidine | 0.16 g | ClC1=NC=NC(=C1)OC(C(OC)OC)C | C9H13ClN2O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-6-(2,2-dimethoxy-1-methylethoxy)pyrimidine | 0.11 g | C(C#CC)OC1=NC=NC(=C1)OC(C(OC)OC)C | C13H18N2O4
